US04263207
In a similar manner, substituting 10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepin-7-carboxylic acid for the 10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepin-3-carboxylic acid in Step A, there is obtained 10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepin-7-carboxamide. Carboxamides of 10,11-dihydrodibenzo[b,f][1,4]thiazepin-3(or 7)-carboxylic acid or dibenzo[b,f][1,4]thiazepin-3(or 7)-carboxylic acid are prepared by the process of Example 33, by substituting the desired 3(or 7) carboxylic acid for the starting material of Step A.

reactant | 10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepin-7-carboxylic acid | O=C1NC2=C(SC3=C1C=CC=C3)C=C(C=C2)C(=O)O | C14H9NO3S
reactant | 10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepin-3-carboxylic acid | O=C1NC2=C(SC3=C1C=CC(=C3)C(=O)O)C=CC=C2 | C14H9NO3S
product | 10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepin-7-carboxamide | O=C1NC2=C(SC3=C1C=CC=C3)C=C(C=C2)C(=O)N | C14H10N2O2S
